US04044133
6-[(4-Amino-2-ethyl-5-pyrimidinyl)methyl]-2,7-dimethylthieno[2,3-c]pyridinium bromide hydrobromide
891 Mg of 2-ethyl-4-amino-5-bromomethyl pyrimidine hydrobromide is dissolved in 5 ml. of dimethylformamide (DMF), 1.95 g. of 2,7-dimethylthieno[2,3-c]-pyridine is added; a precipitate forms immediately. The precipitate is collected, washed with DMF, and discarded. The filtrates are stirred at room temperature overnight, diluted with ether, and the off-white precipitate collected and washed with ether. The solid is dissolved in methanol, hydrogen bromide gas introduced, and the colorless product isolated from methanol-isopropanol. 270 Mg. of product, 6-[(4-amino-2-ethyl-5-pyrimidinyl)methyl]2,7-dimethylthieno[2,3-c]pyridinium bromide hydrobromide is recovered, m.p. 215°-216° C., dec., 20% yield.

reactant | 2-ethyl-4-amino-5-bromomethyl pyrimidine hydrobromide | Br.C(C)C1=NC=C(C(=N1)N)CBr
reactant | 2,7-dimethylthieno[2,3-c]-pyridine | CC1=CC=2C(=C(N=CC2)C)S1 | C9H9NS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[(4-Amino-2-ethyl-5-pyrimidinyl)methyl]-2,7-dimethylthieno[2,3-c]pyridinium bromide hydrobromide | 20% yield | Br.[Br-].NC1=NC(=NC=C1C[N+]=1C(=C2C(=CC1)C=C(S2)C)C)CC | InChI=1S/C16H19N4S.2BrH/c1-4-14-18-8-13(16(17)19-14)9-20-6-5-12-7-10(2)21-15(12)11(20)3;;/h5-8H,4,9H2,1-3H3,(H2,17,18,19);2*1H/q+1;;/p-1
